US04107175
N-(5-Chloro-1,3-benzodithiol-2-ylidene)-1H-indole-3-ethanamine
A solution of 5-chloro-N-methyl-N-phenyl-1,3-benzodithiol-2-iminium iodide (8.39g), tryptamine hydrochloride (3.94g) and anhydrous sodium carbonate (2.12g) in 300 ml of anhydrous dimethylformamide is heated at 130° C under a nitrogen atmosphere for 3 hours. After this time the reaction mixture is poured into 1 liter of water and extracted with three 300 ml portions of benzene. The combined benzene extracts are dried over anhydrous sodium sulfate and then concentrated in vacuo to yield an oil. This oil is chromatographed on 600 ml of silica gel eluting first with dichloromethane/pentane (1:1) and finally dichloromethane. The resultant product with Rf =0.36 (silica gel-dichloromethane) is recrystallized from dichloromethane/pentane to yield 840 mg of the title compound, melting point 145°-147° C.

reactant | 5-chloro-N-methyl-N-phenyl-1,3-benzodithiol-2-iminium iodide | 8.39g | [I-].ClC1=CC2=C(SC(S2)=[N+](C2=CC=CC=C2)C)C=C1
reactant | tryptamine hydrochloride | 3.94g | Cl.NCCC1=CNC2=CC=CC=C12
reactant | sodium carbonate | 2.12g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 1 liter | O | H2O
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | N-(5-Chloro-1,3-benzodithiol-2-ylidene)-1H-indole-3-ethanamine | 840 mg | ClC1=CC2=C(SC(S2)=NCCC2=CNC3=CC=CC=C23)C=C1 | C17H13ClN2S2
